US07632928B2
Synthesis of 5-(N-Ureidoimino)-4-oxo-pent-2-enenitrile (nitrofurazone metabolite NFZM, 2):
A solution of 5-azido-2-furaldehyde (92 mg, 0.67 mmole) in 4 ml of ethanol was added dropwise to a solution of semicarbazide hydrochloride (75 mg, 0.67 mmole) in 10 ml of ethanol:water (5:1) mixture. The reaction mix was stirred at room temperature overnight and evaporated to dryness. The residue was dissolved in 1.2 ml of acetone and streaked on one preparative silica gel TLC plates (EM-5717-7), developed with ethyl acetate:petroleum ether (9:1). Two well-separated major bands (upper band with Rf of 0.56 and lower band with Rf of 0.20) were detected under UV lights and were separately stripped and eluted with excess of ethyl acetate. The ethyl acetate eluents were evaporated to give pale yellow residues (45 mg and 35 mg, respectively). On silica gel TLC, both residues showed identical pattern of two distinctly separated spots with Rf of 0.56 and 0.33 when the TLC was developed with ethyl acetate:petroleum ether (6:1). The TLC analysis suggested that both residues contained interconvertible cis and trans isomers and were, therefore, combined (total yield 0.48, 72%). 1H NMR analysis of 2 confirmed that it is a mixture of two isomers with the acrylonitrile moiety in cis (Z) and trans (E)-configurations (coupling constant J=11.6 and 16.5 Hz, respectively).

reactant | 5-azido-2-furaldehyde | 0.67 mmole, 92 mg | N(=[N+]=[N-])C1=CC=C(O1)C=O | C5H3N3O2
reactant | semicarbazide hydrochloride | 0.67 mmole, 75 mg | Cl.NNC(=O)N
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethanol water | 10 ml | C(C)O.O
product | 5-(N-Ureidoimino)-4-oxo-pent-2-enenitrile | N(C(=O)N)N=CC(C=CC#N)=O | C6H6N4O2
